US03974158
A mixture of 2-ethoxyaniline (54.8 g.), methanol (300 ml.) and epichlorhydrin (18.6 g.) is stirred at 25°C. for 24 hours. The methanol and unreacted 2-ethoxyaniline are removed by vacuum distillation and the residue is dissolved in methanol (300 ml.) and sodium hydroxide (8.0 g.) added. The mixture is stirred at 25°C. for 3 hours, filtered and the filtrate evaporated under reduced pressure to give N-glycidyl-2-ethoxyaniline which is then dissolved in methanol (69 ml.). This solution is added to a stirred suspension of 2-aminoethyl hydrogen sulphate (97.0 g.) in a mixture of methanol (69 ml.), water (16.5 ml.) and sodium hydroxide solution (17 N; 35.0 ml.). The mixture is stirred at 25°C. for 16 hours.

reactant | 2-ethoxyaniline | 54.8 g | C(C)OC1=C(N)C=CC=C1 | C8H11NO
reactant | epichlorhydrin | 18.6 g | C(Cl)C1CO1 | C3H5ClO
solvent | methanol | 300 ml | CO | CH4O
product | N-glycidyl-2-ethoxyaniline | C(C1CO1)NC1=C(C=CC=C1)OCC | C11H15NO2
